US07687658B2
Ethyl (3R,4R,5S)-4-Amino-5-azido-3-(1-ethylpropoxy)-1-cyclohexene-1-carboxylate (14 gm) was added to triethyl amine (10 gm) and methylene chloride (110 ml) and then the contents were cooled to 20° C. To the contents added acetic anhydride (5.6 gm) at 20-25° C. for 1 hour and then stirred for 3 hours at 20-25° C. The reaction mass was quenched into water (140 ml) and then separated the layers. The organic layer was washed with 8% sodium bicarbonate solution (140 ml) and then washed with 30% sodium chloride solution (140 ml). The organic layer was distilled and recrystallized from n-hexane (70 ml) to give 8.5 gm of Ethyl (3R,4R,5S)-4-(Acetylamino)-5-azido-3-(1-ethylpropoxy)-1-cyclohexene-1-carboxylate.

reactant | Ethyl (3R,4R,5S)-4-Amino-5-azido-3-(1-ethylpropoxy)-1-cyclohexene-1-carboxylate | 14 gm | N[C@H]1[C@@H](C=C(C[C@@H]1N=[N+]=[N-])C(=O)OCC)OC(CC)CC | C14H24N4O3
reactant | triethyl amine | 10 gm | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 5.6 gm | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 110 ml | C(Cl)Cl | CH2Cl2
product | Ethyl (3R,4R,5S)-4-(Acetylamino)-5-azido-3-(1-ethylpropoxy)-1-cyclohexene-1-carboxylate | 8.5 gm | C(C)(=O)N[C@H]1[C@@H](C=C(C[C@@H]1N=[N+]=[N-])C(=O)OCC)OC(CC)CC | C16H26N4O4
